US07759385B2
The diastereoisomer mixture of (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid phenyl ester (529 mg, 1.5 mmole) was added to a solution of 3-piperidine-3-yl-1H-indole (300 mg, 1.5 mmole) in dioxane (10 ml). The reaction mixture was then boiled under reflux for 20 hours. The reaction mixture was worked up by distilling off the solvent. The residue contained, in addition to phenol, also the two diastereoisomers of 3-(1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide. The diastereoisomers were separated and purified by flash chromatography on silica gel (50 g). Methanol/EE (1:1; 900 ml) was used as eluent. The non-polar diastereoisomer of 3-(1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide (220.6 mg, m.p. 165°-170° C., 32%) and the polar diastereoisomer of 3-(1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide (142 mg, m.p. 95°-99° C., 31%) were thereby obtained in pure form.

reactant | (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid phenyl ester | 1.5 mmole, 529 mg | C1(=CC=CC=C1)OC(NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C22H28N2O2
reactant | 3-piperidine-3-yl-1H-indole | 1.5 mmole, 300 mg | N1CC(CCC1)C1=CNC2=CC=CC=C12 | C13H16N2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide | 142 mg, 31% | CN(C1(CCC(CC1)CNC(=O)N1CC(CCC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C29H38N4O
